US05403852
15 g of phosphorus oxychloride is added with stirring to a solution of 13.8 g of (RS)-1,2-bis(4-methoxyphenyl)-2-(7-cyanooctanamido)ethanone in 65 cm3 of toluene, and the mixture is heated to 80° C. for 4 hours. The solution is poured onto 50 g of ice, the toluene phase is separated after settling has taken place and the aqueous phase is extracted with twice 50 cm3 of ethyl acetate. The combined organic extracts are washed with water (3 times 20 cm3) and with 30 cm3 of saturated aqueous sodium chloride solution. After drying over-sodium sulphate, the solvent is evaporated off under reduced pressure. The residue is chromatographed on a column 2.8 cm in diameter containing 100 g of silica gel (50 to 200). The column is eluted, collecting 50 cm3 fractions, with 1.8 liters of diisopropyl ether. The fractions emerging at between 0.3 liter and 1.8 liters are concentrated under reduced pressure (0.2 kPa). 12.4 g (93%) of (RS)-7-[4,5-bis(4-methoxyphenyl)-2-oxazolyl]-2-methylheptanenitrile are obtained in the form of a yellowish oil, which is used directly in the subsequent reaction.

reactant | phosphorus oxychloride | 15 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | (RS)-1,2-bis(4-methoxyphenyl)-2-(7-cyanooctanamido)ethanone | 13.8 g | COC1=CC=C(C=C1)C(C(NC(CCCCCC(C)C#N)=O)C1=CC=C(C=C1)OC)=O | C25H30N2O4
solvent | toluene | 65 cm3 | C1(=CC=CC=C1)C | C7H8
product | (RS)-7-[4,5-bis(4-methoxyphenyl)-2-oxazolyl]-2-methylheptanenitrile | 12.4 g, 93% | COC1=CC=C(C=C1)C=1N=C(OC1C1=CC=C(C=C1)OC)CCCCCC(C#N)C | C25H28N2O3
